US07273882B2
Preparation AO. Propyl 4-(aminomethyl)-2-chloro-6-methylphenylcarbamate
The procedure is exactly the same as preparing 4-acetamido-3-chloro-5-methylbenzylamine (Preparation D), except that propyl chloroformate was used instead of acetyl chloride.

reactant | 4-acetamido-3-chloro-5-methylbenzylamine | C(C)(=O)NC1=C(C=C(CN)C=C1C)Cl | C10H13ClN2O
reactant | propyl chloroformate | ClC(=O)OCCC | C4H7ClO2
product | Propyl 4-(aminomethyl)-2-chloro-6-methylphenylcarbamate | NCC1=CC(=C(C(=C1)C)NC(OCCC)=O)Cl | C12H17ClN2O2
